US09382237B2
5-amino-3-(pyridin-3-ylamino)-1H-pyrazole-4-carbonitrile (100 mg) was then suspended in EtOH (4 mL) and 4-hydroxybenzaldehyde (31 mg, 1 eq.) and piperidine (1 drop) were added. Stirred at reflux until intermediate was absent (HPLC). After reaction was complete (18 hrs) it was brought to room temperature and filtered to obtain 5-((4-hydroxybenzylidene)amino)-3-(pyridin-3-ylamino)-1H-pyrazole-4-carbonitrile as a yellow powder. Powder was washed with EtOH. Product was allowed to dry under vacuum for 1 hr (40 mg, 53% yield).

reactant | 5-amino-3-(pyridin-3-ylamino)-1H-pyrazole-4-carbonitrile | 100 mg | NC1=C(C(=NN1)NC=1C=NC=CC1)C#N | C9H8N6
reactant | 4-hydroxybenzaldehyde | 31 mg, 1 eq. | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | EtOH | 4 mL | CCO | C2H6O
catalyst | piperidine | 1 drop | N1CCCCC1 | C5H11N
product | 5-((4-hydroxybenzylidene)amino)-3-(pyridin-3-ylamino)-1H-pyrazole-4-carbonitrile | 53% yield | OC1=CC=C(C=NC2=C(C(=NN2)NC=2C=NC=CC2)C#N)C=C1 | C16H12N6O
